US07767705B2
4-Chloro-3-(3,3-dimethylbutyl)benzoic acid ethyl ester
3,3-dimethyl-1-butylmagnesium chloride (8.00 mmol, 0.5 M THF, Platte Valley Scientific) was added dropwise to a solution of ZnCl2 (4.00 mmol, IM diethyl ether, Aldrich) in 1,4-dioxane (15 mL) at ambient temperature. The mixture was stirred 30 minutes followed by addition of 3-bromo-4-chlorobenzoic acid ethyl ester (1.05 g, 3.99 mmol) and Pd(dppf)2Cl2 (131 mg, 0.160 mmol). The mixture was heated to reflux for 30 minutes, cooled to ambient temperature, diluted with diethyl ether and quenched with H2O. The mixture was filtered through celite and the filtrate was washed with brine, dried (Na2SO4), filtered and concentrated under reduced pressure. Flash chromatography eluting with 5% to 15% ethyl acetate/hexanes provided the title compound. 1H NMR (DMSO-d6) δ 7.89 (d, 1H), 7.78 (dd, 1H), 7.56 (d, 1H), 4.32 (q, 2H), 2.73 (m, 2H), 1.41 (m, 2H), 1.32 (t, 3H), 0.97 (s, 9H); MS (DCI+) m/z 286 (M+NH4)+, 269 (M+H)+.

reactant | 3,3-dimethyl-1-butylmagnesium chloride | 8.00 mmol, 0.5 M | CC(CC[Mg]Cl)(C)C
reactant | 3-bromo-4-chlorobenzoic acid ethyl ester | 3.99 mmol, 1.05 g | C(C)OC(C1=CC(=C(C=C1)Cl)Br)=O | C9H8BrClO2
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | ZnCl2 | 4.00 mmol | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(dppf)2Cl2 | 0.160 mmol, 131 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-Chloro-3-(3,3-dimethylbutyl)benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)Cl)CCC(C)(C)C)=O | C15H21ClO2
